US04028344
Preparation of 2,2'-Azobis[2-(methoxycarbonylamino)butane]
To 50 ml of methanol in a 125 ml erlenmeyer flask stirred with a magnetic stirrer, was slowly added 2.1 grams (0.05 moles) of 57% sodium hydride. After the temperature came back down to 30° C., 5.6 grams (0.025 moles) of 2,2'-azobis(2-isocyanatobutane) was added dropwise over 2 minutes from an eyedropper. The reaction mixture exothermed to 45° C. over this period. The reaction mixture was stirred an additional 11/2 hours, poured into 200 ml water and the product extracted with a solution of 75 ml of pentane and 40 ml methylene chloride. The organic layer was separated, washed twice with water, once with 10% NaHCO3 solution, dried over anhydrous Na2SO4, filtered and the solvent evaporated under reduced pressure to leave 2.0 grams (28% crude yield) of an orange liquid. The product had a strong carbonyl band at 1700 cm-1 and a sharp NH band at 3340 cm-1 and there is no isocyanate band at 2200 cm-1.

reactant | methanol | 50 ml | CO | CH4O
reactant | sodium hydride | 0.05 moles, 2.1 grams | [H-].[Na+]
reactant | 2,2'-azobis(2-isocyanatobutane) | 0.025 moles, 5.6 grams | N(=NC(C)(CC)N=C=O)C(C)(CC)N=C=O | C10H16N4O2
reactant | isocyanate | [N-]=C=O
solvent | water | 200 ml | O | H2O
product | 2,2'-Azobis[2-(methoxycarbonylamino)butane] | N(=NC(C)(CC)NC(=O)OC)C(C)(CC)NC(=O)OC | C12H24N4O4
